***********************
.SUBCKT 14010x14xxx_Series_101x A K C E PARAMS: REL_CTR=1
D1 A D D9508	;IRED
Vsense D K 0 ;IF Current sense
Hd R 0 Vsense 1	;I-V
Rd R T 10k
Cd T 0 0.02n
Rdummy B 0 4G
Q1 C B E QT1090 ;phototransistor
* V-I
G1 C B TABLE
+ {if(V(T)<0.005,
+ (-121.55*PWR(V(T),3)+1.8124*PWR(V(T),2)+0.004*V(T)-0.0000003)*REL_CTR,
+ (1.7764*PWR(V(T),3)-0.2865*PWR(V(T),2)+0.0176*V(T)-0.00003)*REL_CTR)}
+ (0,0.0000000001) (10,10)

.model D9508 D IS=1P N=2.228621 RS=1.560495 BV=6 IBV=10U
+ CJO=18.8P VJ=0.32794 M=0.27985 EG=1.424 TT=500N 
.model QT1090 NPN IS=3.64P BF=100 NF=1.193293 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=65 IKF=0.09 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
*$
***********************
.SUBCKT 14035424xxx_Series_354 A K C E PARAMS: REL_CTR=1
D1 A D D9508	;IRED
Vsense D K 0 ;IF Current sense
Hd R 0 Vsense 1	;I-V
Rd R T 10k
Cd T 0 0.02n
Rdummy B 0 4G
Q1 C B E QT1090 ;phototransistor
* V-I
G1 C B TABLE
+ {if(V(T)<0.005,
+ (-15255*PWR(V(T),3)+180.16*PWR(V(T),2)+0.9044*V(T)-0.00007)*REL_CTR/100,
+ (6231.3*PWR(V(T),4)-691.11*PWR(V(T),3)+6.0409*PWR(V(T),2)+1.8507*V(T)-0.0025)*REL_CTR/67)}
+ (0,0.0000000001) (10,10)

.model D9508 D IS=1P N=2.228621 RS=1.560495 BV=6 IBV=10U
+ CJO=18.8P VJ=0.32794 M=0.27985 EG=1.424 TT=500N 
.model QT1090 NPN IS=3.64P BF=100 NF=1.193293 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=65 IKF=0.09 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
*$
***********************
.SUBCKT 14035614xxx_Series_356 A K C E PARAMS: REL_CTR=1
D1 A D D9508	;IRED
Vsense D K 0 ;IF Current sense
Hd R 0 Vsense 1	;I-V
Rd R T 10k
Cd T 0 0.02n
Rdummy B 0 4G
Q1 C B E QT1090 ;phototransistor
* V-I
G1 C B TABLE
+ {if(V(T)<0.005,
+ (-8633*PWR(V(T),3)+210.04*PWR(V(T),2)+0.4213*V(T)-3e-5)*REL_CTR/100,
+ (0.0115*Ln(V(T))+0.0654)*REL_CTR/76)}
+ (0,0.0000000001) (10,10)

.model D9508 D IS=1P N=2.228621 RS=1.560495 BV=6 IBV=10U
+ CJO=18.8P VJ=0.32794 M=0.27985 EG=1.424 TT=500N 
.model QT1090 NPN IS=3.64P BF=100 NF=1.193293 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=65 IKF=0.09 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
*$
***********************
.SUBCKT 14035714xxx_Series_357 A K C E PARAMS: REL_CTR=1
D1 A D D9508	;IRED
Vsense D K 0 ;IF Current sense
Hd R 0 Vsense 1	;I-V
Rd R T 10k
Cd T 0 0.02n
Rdummy B 0 4G
Q1 C B E QT1090 ;phototransistor
* V-I
G1 C B TABLE
+ {if(V(T)<0.005,
+ (-18633*PWR(V(T),3)+210.04*PWR(V(T),2)+0.4213*V(T)-3e-5)*REL_CTR/100,
+ (0.0115*Ln(V(T))+0.0654)*REL_CTR/76)}
+ (0,0.0000000001) (10,10)

.model D9508 D IS=1P N=2.228621 RS=1.560495 BV=6 IBV=10U
+ CJO=18.8P VJ=0.32794 M=0.27985 EG=1.424 TT=500N 
.model QT1090 NPN IS=3.64P BF=100 NF=1.193293 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=65 IKF=0.09 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
*$
***********************
.SUBCKT 14081424xxx_Series_814 A K C E PARAMS: REL_CTR=1
D1 A D D9508	;IRED
Vsense D K 0 ;IF Current sense
Hd R 0 Vsense 1	;I-V
Rd R T 10k
Cd T 0 0.02n
Rdummy B 0 4G
Q1 C B E QT1090 ;phototransistor
* V-I
G1 C B TABLE
+ {if(V(T)<0.005,
+ (-21816*PWR(V(T),3)+260.82*PWR(V(T),2)+0.8395*V(T)-8e-5)*REL_CTR/100,
+ (121.98*PWR(V(T),3)-38.3399*PWR(V(T),2)+2.7771*V(T)-0.0053)*REL_CTR/76)}
+ (0,0.0000000001) (10,10) 	

.model D9508 D IS=1P N=2.228621 RS=1.560495 BV=6 IBV=10U
+ CJO=18.8P VJ=0.32794 M=0.27985 EG=1.424 TT=500N 
.model QT1090 NPN IS=3.64P BF=100 NF=1.193293 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=65 IKF=0.09 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
*$
***********************
.SUBCKT 14081614xxx_Series_816 A K C E PARAMS: REL_CTR=1
D1 A D D9508	;IRED
Vsense D K 0 ;IF Current sense
Hd R 0 Vsense 1	;I-V
Rd R T 10k
Cd T 0 0.02n
Rdummy B 0 4G
Q1 C B E QT1090 ;phototransistor
* V-I
G1 C B TABLE
+ {if(V(T)<0.005,
+ (-23080*PWR(V(T),3)+241.84*PWR(V(T),2)+0.3728*V(T)-3e-5)*REL_CTR/100,
+ (236.43*PWR(V(T),3)-35.517*PWR(V(T),2)+1.9271*V(T)-0.004)*REL_CTR/76)}
+ (0,0.0000001) (10,10)

.model D9508 D IS=1P N=2.228621 RS=1.560495 BV=6 IBV=10U
+ CJO=18.8P VJ=0.32794 M=0.27985 EG=1.424 TT=500N 
.model QT1090 NPN IS=3.64P BF=100 NF=1.193293 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=65 IKF=0.09 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
*$
***********************
.SUBCKT 14081714xxx_Series_817 A K C E PARAMS: REL_CTR=1
D1 A D D9508	;IRED
Vsense D K 0 ;IF Current sense
Hd R 0 Vsense 1	;I-V
Rd R T 10k
Cd T 0 0.02n
Rdummy B 0 4G
Q1 C B E QT1090 ;phototransistor
* V-I
G1 C B TABLE
+ {if(V(T)<0.005,
+ (-23080*PWR(V(T),3)+241.84*PWR(V(T),2)+0.3728*V(T)-3e-5)*REL_CTR/100,
+ (236.43*PWR(V(T),3)-35.517*PWR(V(T),2)+1.9271*V(T)-0.004)*REL_CTR/76)}
+ (0,0.0000000001) (10,10) 	

.model D9508 D IS=1P N=2.228621 RS=1.560495 BV=6 IBV=10U
+ CJO=18.8P VJ=0.32794 M=0.27985 EG=1.424 TT=500N 
.model QT1090 NPN IS=3.64P BF=100 NF=1.193293 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=65 IKF=0.09 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
*$