* PSpice Model Editor - Version 17.2.0
*$
.Subckt 0805_150080YV54050 1 2 3 4
D1 4 1 Yellow
.MODEL Yellow D
+ IS=10.000E-21
+ N=1.8568
+ RS=1.9784
+ IKF=8.0035
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 2 BrightGreen
.MODEL BrightGreen D
+ IS=317.37E-18
+ N=2.4712
+ RS=2.2273
+ IKF=926.12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
*********************************
.Subckt 0805_150080SG54050 1 2 3 4
D1 4 1 Super
.MODEL Super D
+ IS=424.24E-15
+ N=4.9466
+ RS=7.7569
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 2 Green
.MODEL Green D
+ IS=23.731E-12
+ N=3.8023
+ RS=2.8400
+ IKF=938.88
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
***********************************
.Subckt 0805_150080RG54050 1 2 3 4
D1 4 1 Red
.MODEL Red D
+ IS=393.28E-15
+ N=4.9229
+ RS=7.5780
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 2 Green
.MODEL Green D
+ IS=2.2687E-12
+ N=3.3922
+ RS=2.0875
+ IKF=496.70
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
********************************
.Subckt 0805_150080RV54050 1 2 3 4
D1 4 1 Red
.MODEL Red D
+ IS=47.051E-18
+ N=1.3558
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 2 BrightGreen
.MODEL BrightGreen D
+ IS=452.77E-21
+ N=2.0790
+ RS=.92573
+ IKF=4.2569E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
********************************
.Subckt 0606_150066RG54050 1 2 3 4
D1 4 1 Red
.MODEL Red D
+ IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 2 Green
.MODEL Green D
+ RS=1.0000E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
********************************
.Subckt 0606_150066RV54050 1 2 3 4
D1 4 1 Red
.MODEL Red D
+ IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 2 BrightGreen
.MODEL BrightGreen D
+ IS=48.022E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$
********************************
.Subckt 0606_150066YV54050 1 2 3 4
D1 4 1 Yellow
.MODEL Yellow D
+ IS=10.010E-21
+ N=1.8631
+ RS=1.0000E-6
+ IKF=38.917E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 2 BrightGreen
.MODEL BrightGreen D
+ IS=48.022E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*$

























