**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     Signal LEDs
* Matchcode:          WL-SMCW SMT Bi-Color Chip LED Waterclear
* Library Type:       LTspice
* Version:        rev19a       
* Date and Time   :       2019-03-14
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 0606_150066SV74000 1 2 3 4
D1 3 4 bGreen
.MODEL bGreen D
+ (IS=10.000E-21
+ N=1.8470
+ RS=.6982
+ IKF=12.403
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 1 2 sRed
.MODEL sRed D
+ (IS=97.790E-15
+ N=2.9324
+ RS=1.3415
+ IKF=996.71
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********************************
.subckt 0606_150066YV74000 1 2 3 4
D1 3 4 bGreen
.MODEL bGreen D
+ (IS=10.000E-21
+ N=1.8279
+ RS=2.7777
+ IKF=9.7476
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 1 2 yellow
.MODEL yellow D
+ (IS=565.60E-18
+ N=2.5312
+ RS=1.9690
+ IKF=173.20
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********************************
.subckt 1210_150121SV74000 1 2 3 4
D1 1 2 bGreen
.MODEL bGreen D
+ (IS=10.000E-21
+ N=1.8506
+ RS=1.1610
+ IKF=2.7921
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 3 4 sRed
.MODEL sRed D
+ (IS=2.8572E-12
+ N=3.4081
+ RS=1.6137
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********************************
.subckt 1210_150121YV74000  1 2 3 4
D1 1 2 bGreen
.MODEL bGreen D
+ (IS=1.0039E-18
+ N=2.1027
+ RS=.83472
+ IKF=.92071
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 3 4 yellow
.MODEL yellow D
+ (IS=77.688E-15
+ N=3.1201
+ RS=.29538
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********************************
.subckt 1210dome_150121RV83000  1 2 3 4
D1 1 2 red
.MODEL red D
+ (IS=1.1458E-12
+ N=3.2842
+ RS=3.5131
+ IKF=998.92
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9)
D2 3 4 Violet
.MODEL Violet D
+ (IS=10.010E-21
+ N=1.8447
+ RS=.54946
+ IKF=12.228E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9)
.ends
**********************************
.subckt 1109_150110RV86000  1 2 3 4
D1 1 2 green
.MODEL green D
+ (IS=2.8241E-15
+ N=2.6838
+ RS=.83405
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9)
D2 3 4 red
.MODEL red D
+ (IS=2.0396E-12
+ N=3.4271
+ RS=1.3648
+ IKF=223.74
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9)
.ends
**********************************
.subckt 0606_150066RG74000 1 2 3 4 
D1 1 2 red
.model red D
+ (IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9)
D2 3 4 green
.model green D
+ (IS=75.763E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends


















