********
.subckt 1204_155124RG73200 1 2 3
D1 2 1 red
.MODEL red D
+ (IS=256.84E-12
+ N=4.2185
+ RS=11.295
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 2 3 green
.MODEL green D
+ (IS=10.010E-21
+ N=2.9837
+ RS=1.0000E-6
+ IKF=1.2018E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
********
.subckt 1204_155124RV73200 1 2 3
D1 2 1 led
.MODEL led D
+ (IS=104.41E-12
+ N=3.8914
+ RS=9.7354
+ IKF=771.57
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 2 3 bgreen
.MODEL bgreen D
+ (IS=10.010E-21
+ N=1.9712
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
**********



















