*******
.subckt 1206_156120M173000 1 2 3 4
D1 1 3 red
.MODEL red D
+ (IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 1 4 green
.MODEL green D
+ (IS=75.763E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 1 2 blue
.MODEL blue D
+ (IS=48.022E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*******
.subckt 1205_156125M173000 1 2 3 4
D1 4 1 red
.MODEL red D
+ (IS=753.41E-15
+ N=3.1516
+ RS=5.7925
+ IKF=480.73
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 4 2 green
.MODEL green D
+ (IS=298.64E-15
+ N=5
+ RS=11.002
+ IKF=885.41
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 4 3 blue
.MODEL blue D
+ (IS=243.64E-15
+ N=5
+ RS=14.085
+ IKF=999.09
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends


































