*******
.subckt 1204_155124M173200 1 2 3 4 
D1 1 2 blue
.MODEL blue D
+ (IS=38.073E-15
+ N=3.1506
+ RS=17.048
+ IKF=2.2803E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 1 3 green
.MODEL green D
+ (IS=8.8654E-12
+ N=4.9590
+ RS=10.519
+ IKF=717.71
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 1 4 red
.MODEL red D
+ (IS=10.000E-21
+ N=1.7058
+ RS=1.0002E-6
+ IKF=307.26E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
******
.subckt 1204_155124M173200A 1 2 3 4 
D1 4 1 green
.MODEL green D
+ (IS=4.3516E-12
+ N=5
+ RS=1.0000E-6
+ IKF=2.2195E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D1 4 2 red
.MODEL red D
+ (IS=10.000E-21
+ N=1.7058
+ RS=1.0002E-6
+ IKF=307.26E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D1 4 3 blue
.MODEL blue D
+ (IS=6.0672E-12
+ N=5
+ RS=61.390
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
.subckt 1204_155124M173299 1 2 3 4 
D1 4 1 blue
.MODEL blue D
+ (IS=8.3327E-12
+ N=5
+ RS=52.908
+ IKF=.49922
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=100.00E-12
+ BV=100
+ IBV=100.00E-6)
D2 4 2 green
.MODEL green D
+ (IS=8.8654E-12
+ N=4.9590
+ RS=10.519
+ IKF=717.71
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 4 3 red
.MODEL red D
+ (IS=10.000E-21
+ N=1.7058
+ RS=1.0002E-6
+ IKF=307.26E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*******
























