
.subckt 3535_150353M153300 1 2 3 4 5 6
D1 1 2  red
.MODEL red D
+ (IS=24.321E-12
+ N=3.7548
+ RS=8.4129
+ IKF=899.20
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D2 3 4 green
.MODEL green D
+ (IS=67.450E-9
+ N=3.8563
+ RS=26.998
+ IKF=363.64E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
D3 5 6 blue
.MODEL blue D
+ (IS=9.1622E-9
+ N=3.5610
+ RS=21.867
+ IKF=188.20E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6)
.ends
*****************
.subckt 1616_150161M153130 1 2 3 4 5 6
D1 1 2 red
.MODEL red D
+ IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 4 green
.MODEL green D
+ IS=75.763E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D3 5 6 blue
.MODEL blue D
+ IS=150.13E-18
+ N=3.3919
+ RS=.5463
+ IKF=413.18E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*****************
.subckt 2022_150202M153130 1 2 3 4 5 6
D1 1 2 red
.MODEL red D
+ IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 4 green
.MODEL green D
+ IS=75.763E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D3 5 6 blue
.MODEL blue D
+ IS=150.13E-18
+ N=3.3919
+ RS=.5463
+ IKF=413.18E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*****************
.subckt 2828_150282M153310 1 2 3 4 5 6
D1 1 2 red
.MODEL red D
+ IS=10.010E-21
+ N=1.9114
+ RS=1.0000E-6
+ IKF=47.488E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D2 3 4 green
.MODEL green D
+ IS=75.763E-18
+ N=3.3919
+ RS=.54629
+ IKF=413.19E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
D3 5 6 blue
.MODEL blue D
+ IS=150.13E-18
+ N=3.3919
+ RS=.5463
+ IKF=413.18E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends


































